US08440662B2
Step 1: 2-Chloro-8-(6-fluoro-pyridin-3-yl)-4-morpholin-4-yl-quinazoline
To a 50 mL round bottom flask, 8-bromo-2-chloro-4-morpholin-4-yl-quinazoline (150 mg, 0.00046 mol), 2-fluoropyridine-5-boronic acid (58 mg, 0.00041 mol), sodium carbonate (72 mg, 0.00068 mol), DMF (10 mL) and water (3 mL) were added and the reaction vessel was degassed with nitrogen for 5-10 min. To the same reaction mixture, PdCl2(PPh3)2 (16 mg, 0.000023 mol) was added and again degassed with nitrogen for 5-10 min. The reaction mixture was stirred at 95° C. for 2 h. The reaction mixture was cooled and diluted with ethyl acetate. The organic layer was washed with water, brine and dried over sodium sulfate. The solvent was removed under reduced pressure to afford the crude product. The crude product was purified using column chromatography (60-120 silica gel, 60% ethyl acetate in hexane) to yield the desired product [90 mg, 60%]. 1H NMR (300 MHz, CDCl3): δ 8.44 (s, 1H), 8.17-8.24 (m, 1H), 7.89 (d, J=8.1 Hz, 1H), 7.78 (d, J=7.5 Hz, 1H), 7.53 (t, J=7.5 Hz, 1H), 7.75 (dd, J′=2.7, J″=3.0 Hz, 1H), 3.89 (s, 8H). LC-MS (ESI): Calculated mass: 344.1; Observed mass: 345.0 [M+H]+ (RT: 1.63 min).

reactant | 8-bromo-2-chloro-4-morpholin-4-yl-quinazoline | 0.00046 mol, 150 mg | BrC=1C=CC=C2C(=NC(=NC12)Cl)N1CCOCC1 | C12H11BrClN3O
reactant | 2-fluoropyridine-5-boronic acid | 0.00041 mol, 58 mg | FC1=NC=C(C=C1)B(O)O | C5H5BFNO2
reactant | sodium carbonate | 0.00068 mol, 72 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | PdCl2(PPh3)2 | 0.000023 mol, 16 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 mL | O | H2O
product | 2-Chloro-8-(6-fluoro-pyridin-3-yl)-4-morpholin-4-yl-quinazoline | 90 mg, 60% | ClC1=NC2=C(C=CC=C2C(=N1)N1CCOCC1)C=1C=NC(=CC1)F | C17H14ClFN4O
